US04220776
12 Grams (0.16 mole) of chloroacetonitrile was added to a stirred suspension of 6.2 g (0.04 mole) of 2-mercaptonicotinic acid, 8.0 g (0.08 mole) of potassium bicarbonate, and 20 g (0.12 mole) of potassium iodide in 100 ml of dimethylformamide at 10° under nitrogen. The reaction was stirred at 10° for 7 hr., then at 25° for 15 hr. The reaction mixture was then poured into water, saturated with sodium chloride and filtered. The resulting solid was dissolved in methylene chloride, dried with magnesium sulfate and evaporated to give 7.5 g of cyanomethyl 2-(cyanomethylthio)nicotinate. m.p. 140°-143° C. NMR (DMSO) δ3.3(s,2); 4.3(s,2); 6.4(dd,1); 7.4(dd,1); 7.8(dd,1).

reactant | chloroacetonitrile | 0.16 mole | ClCC#N | C2H2ClN
reactant | 2-mercaptonicotinic acid | 0.04 mole, 6.2 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | potassium bicarbonate | 0.08 mole, 8.0 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | 0.12 mole, 20 g | [I-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | cyanomethyl 2-(cyanomethylthio)nicotinate | 7.5 g | C(#N)CSC1=C(C(=O)OCC#N)C=CC=N1 | C10H7N3O2S
